US04752615
Methyl N-(2-ethoxy-3-chloro-5-aminophenyl)carbamate (2.67 g) in toluene (20 ml) was dropwise added to an ethyl acetate solution containing 10 g of phosgene at 10° to 20° C. The resultant mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give methyl N-(2-ethoxy-3-chloro-5-isocyanatophenyl)carbamate. The thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and 3-buten-2-ol (0.79 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give 1-methyl-2-propenyl N-(3-chloro-4-ethoxy-5-methoxycarbonylaminophenyl)carbamate (Compound No. 3) (3.57 g) in a yield of 95.6 %. nD25.0 1.5383.

reactant | Methyl N-(2-ethoxy-3-chloro-5-aminophenyl)carbamate | 2.67 g | C(C)OC1=C(C=C(C=C1Cl)N)NC(OC)=O | C10H13ClN2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-(2-ethoxy-3-chloro-5-isocyanatophenyl)carbamate | C(C)OC1=C(C=C(C=C1Cl)N=C=O)NC(OC)=O | C11H11ClN2O4
